US07241890B2
Adenine (47 g, 0.35 mole) was suspended in 200 ml of CHCl3 before adding bromine (180 ml, 3.5 mole) in one portion. The suspension was left stirring at room temperature for 72 hours in a closed system that was vented by a 20 G needle. The reaction was worked up by adding shaved ice into the suspension before slowly neutralizing with aqueous ammonia to pH 8-9, followed by precipitation of the desired product with acetic acid. The crude product was dried under reduced pressure for 2 days to give 8-Bromoadenine as a light brown powder (45 g, 60% yield). 1H NMR (DMSO-d6) δ 8.12 (s, 1H), 7.22 (s, 2H). Rf(75% EtOAc/Hex)=0.4.

reactant | Adenine | 0.35 mole, 47 g | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | bromine | 3.5 mole, 180 ml | BrBr | Br2
reactant | ammonia | N | H3N
solvent | CHCl3 | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromoadenine | 45 g, 60% yield | BrC1=NC2=NC=NC(=C2N1)N | C5H4BrN5
